US09388189B2
(S)-2-(1-Aminoethyl)-5-((3-fluoro-4-methoxyphenyl)thio)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-tert-Butyl (1-(5-((3-fluoro-4-methoxyphenyl)thio)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate (226 mg, 0.44 mmol) was treated with a solution of hydrochloric acid in dioxane (4M, 2.2 mL, 8.8 mmol) according to the method described in Preparation 1 to obtain 293 mg (95% purity, 98% yield) of the title compound as a hydrochloride salt that was used in the following step without further purification.

reactant | (S)-tert-Butyl (1-(5-((3-fluoro-4-methoxyphenyl)thio)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate | 0.44 mmol, 226 mg | FC=1C=C(C=CC1OC)SC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC(OC(C)(C)C)=O | C26H27FN4O4S
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 8.8 mmol, 4M, 2.2 mL | O1CCOCC1 | C4H8O2
product | (S)-2-(1-Aminoethyl)-5-((3-fluoro-4-methoxyphenyl)thio)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 98% yield | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)SC2=CC(=C(C=C2)OC)F | C21H19FN4O2S
